US04618610
A solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (3 g) and phenyl isothiocyanate (1.8 ml) in dimethylformamide (30 ml) was stirred at room temperature for 6 hours and then concentrated under reduced pressure. To the residue was added water and the thus-produced crystals were recovered by filtration, washed with water and dried to give 6-[4-(3-phenyl-thioureido)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (5.32 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 3 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | phenyl isothiocyanate | 1.8 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-[4-(3-phenyl-thioureido)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 5.32 g | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C)=S | C17H17N5OS
